plaintext
* NMOS Amplifier Circuit
X1 2 3 0 NMOS_MODEL W=100u L=1u
RD 4 2 10k
CB 3 VIN 10u
? Missing component
VDD 4 0 DC 5V
VIN VIN 0 DC 0V
VB VB 0 DC 1V
.model NMOS_MODEL NMOS (LEVEL=1)
.end
