plaintext
* NMOS Transistor M1
M1 4 2 0 0 NMOS
* PMOS Transistor MR
MR 2 5 5 5 PMOS
* PMOS Transistor MB
MB 5 6 6 6 PMOS
* Current Source IB
IB 6 5 DC 1mA
* Capacitor CB
CB 1 2 1uF
* Resistor RD
? Missing component
* Voltage Supply
VDD 6 0 DC 5V
* Analysis
.OP
.END
