spice
*MOSFET Differential Pair Circuit
* NMOS Transistors
M1 2 Vin1 ISS ISS NMOS
M2 3 Vin2 ISS ISS NMOS
* PMOS Transistors
M3 25 2 VDD VDD PMOS
M4 Vout 3 VDD VDD PMOS
* Resistor
? Missing component
* Current Source
I1 ISS 0 DC I
* Voltages
VDD VDD 0 DC VDD
* .MODEL and .PARAM (Assuming specific modeling parameters)
.model NMOS NMOS
.model PMOS PMOS
.param R=1k
.param I=1mA
.param VDD=5V
.end
