plaintext
* SPICE Netlist for the Circuit
* Resistors
RS 1 2 100k  ; Example resistance value
? Missing component
* Capacitor
C1 2 3 1nF   ; Example capacitance value
* NMOS Transistor
M1 3 2 0 0 NMOS_MODEL  ; NMOS connected with drain at 3, gate at 2, source at 0
* Voltage Source
VDD 4 0 DC 5V ; VDD supplying 5 volts
* Model Definitions
.model NMOS_MODEL NMOS (LEVEL=1 KP=120u VTO=1)
* End of Netlist
