spice
* Components
M1 2 3 0 0 NMOS
V1 3 0 DC 0
Vin 5 0 DC
VDD 4 0 DC
RS 5 2 1000
? Missing component
CGD 2 4 1p
CGS 2 0 1p
* Nodes
* 0 - Ground
* 2 - Connection between RS, RD, M1, CGD, CGS
* 3 - Positive terminal of V1
* 4 - VDD and one terminal of RD
* 5 - Positive terminal of Vin
.END
