plaintext
* SPICE netlist for the schematic
M1 4 3 0 0 NMOS
? Missing component
VDD 2 0 DC 5V
Vin 3 0 DC 1V
I1 4 0 DC 1mA
CL 5 0 1pF
* Connections
* Node 1: Not annotated
* Node 2: VDD
* Node 3: Vin
* Node 4: Y
* Node 5: Vout
.end
