* Voltage sources
VDD 4 0 DC VDD
Vin1 1 0 DC Vin1
Vin2 3 0 DC Vin2
Vb 6 0 DC Vb
* Resistors
RD1 4 2 RD
? Missing component
* Transistors
M1 4 1 5 5 NMOS
M2 2 3 5 5 NMOS
M3 5 6 5 5 NMOS
* End of netlist
