* Components:
* V1: Voltage source
* IX: Current source
* gmV1: Voltage-controlled current source
* RG, RS, RD: Resistors
* Voltage source
V1 4 2 DC 0
* Current source
IX 3 4 DC 0
* Voltage-controlled current source
G1 5 2 4 0 gmV1
* Resistors
RG 8 4 RG_VALUE
RS 2 2 RS_VALUE
? Missing component
* Ground connections
VSS 2 0 DC 0
* Nodes:
* 3: Positive terminal of IX
* 4: V1 positive and one side of RG
* 5: RD and one side of gmV1
* 6: Ground for RD
.END
