* SPICE Netlist for the given schematic
R1 8 10 R1
? Missing component
I1 5 7 In1_2
I2 6 4 In2_2
* Voltage for visualization, replace with actual voltage if needed
V1 6 9 V2_n_tot
.end
