spice
* SPICE Netlist for given schematic
* Voltage Source
V1 7 0 DC
* Resistors
R1 7 3 1k
R2 6 2 10k
R3 5 3 1k
* Capacitors
C1 4 6 10p
C2 5 2 10p
* Operational Amplifiers (assumed ideal for simplicity)
* You might need a specific model for simulation:
* .MODEL OpAmp OPAMP
? Missing component
XU2 5 2 0 OPAMP
* End of Netlist
.end
