spice
* SPICE netlist
* Components
V1 3 5 DC Vin
R1 2 3 R1
R2 2 4 R2
* Op-Amp
? Missing component
* Ground reference
Vgnd 5 0 DC 0
* End of netlist
.end
