* SPICE Netlist
* Op-Amps
.subckt A1 3 5
* [Op-amp model parameters if any]
.ends A1
.subckt K 6 3
* [Op-amp model parameters if any]
.ends K
* Components
R1 3 4 1k
R2 4 6 1k
* Connections
X_A1 X 3 A1
? Missing component
* End of netlist
