spice
* Netlist for given schematic
V1 3 0 DC Vin
R1 2 3  R1_value
C1 4 2  C1_value
R2 4 5  R2_value
C2 5 2  C2_value
? Missing component
VOUT 8 6 DC 0
* Model Definitions
.model opamp OPAMP(infinite_lat=1e12 gain=1e7 bandwidth=1e6)
