spice
* Netlist for the given circuit
R1 1 4 1k
RF 5 3 10k
Vin 1 0 DC 0
? Missing component
* Subcircuit definition for MyOpamp
.subckt MyOpamp NonInv Inv Out Gnd
* Example model, replace with actual op-amp model if available
.ends MyOpamp
* Connections
* 1 - Input connection
* 4 - Node between input resistor and inverting input
* 5 - Node between feedback resistor and non-inverting input
* 3 - Output of the opamp
* 2 - Ground
.end
