spice
* Transistor Definitions
* PMOS Transistors: MB2, MB3
.subckt PMOS D G S
M_PMOS D G S S PMOS_MODEL
.ends PMOS
* NMOS Transistors: MC1, MC2, MC3, MC4, MC5, MC6
.subckt NMOS D G S
M_NMOS D G S S NMOS_MODEL
.ends NMOS
* Circuit Implementation
? Missing component
XMB3 5 3 5 PMOS
XMC1 2 3 2 NMOS
XMC2 3 3 2 NMOS
XMC3 3 3 2 NMOS
XMC4 5 3 2 NMOS
XMC5 2 3 2 NMOS
XMC6 3 3 2 NMOS
* Voltage Sources
V_VDD 5 0 DC V_DD
V_VSS 2 0 DC V_SS
V_VBIASA 4 0 DC V_BIASA
V_VOUT- 2 0 DC V_OUT-
V_VOUT+ 2 0 DC V_OUT+
V_VREF_CM 3 0 DC V_REF_CM
* Current Source
I_CMFB 2 0 AC I_CMFB
.end
