spice
* Transistor Q1 (NPN assumed)
Q1 Vout Vin 0 NPN
* Resistor RC
RC VCC Vout 1k
* Voltage Source VCC
? Missing component
* Vin Input
Vin Vin 0 DC <value> ; Specify the DC input value
* Simulation commands
.control
run
.endc
