*MOSFET Definitions
* Q<name> <drain> <gate> <source> <model>
Q1 2 Vin 0 NMOS
Q2 Vcc 2 2 PMOS
*Voltage Sources
? Missing component
Vin Vin 0 DC <value>
*.MODEL Definitions
.model NMOS NMOS
.model PMOS PMOS
