* NMOS Transistor Q1
M1 Vout Vin 0 0 NMOS
* PMOS Transistor Q2
M2 VCC Vout Vout VCC PMOS
* Resistor
R1 Vout 2 R1_Value
* Voltage Source VCC
? Missing component
* Voltage Source Vin
Vin Vin 0 DC Vin_Value
.model NMOS NMOS
.model PMOS PMOS
