spice
* SPICE Netlist
* Transistors
Q1 Vout Vin VCC npn
Q2 VCC Vb 0 pnp
* Power Supply
? Missing component
* Input Voltage
Vin Vin 0 DC 0V
* DC Bias for Base of Q2
Vb Vb 0 DC 1.5V
.END
