* Component Declaration
VCC VCC 0 DC 5V
Vin Vin 0 DC 0V
? Missing component
Q1 Vout Vin VCC NPN
Q2 GND Vb Vout NPN
* Model Definitions
.model NPN NPN (Is=1e-15 Bf=100)
