* BJT Amplifier Circuit
* Transistors
Q1 Vout Vin VCC Q1_model
Q2 Gnd Vout Gnd Q2_model
* Resistor
Rs Vin Gnd 1000
* Voltage Source
? Missing component
.model Q1_model NPN
.model Q2_model NPN
.end
