// Transistor Definitions
Q1 Vout Vin 2 NPN
Q2 2 0 0 NPN
// Resistor
RE 2 Vout 1000 ; Example value for resistance
// Voltage Sources
? Missing component
Vin Vin 0 DC 5 ; Example value for Vin
// Define .MODEL for NPN BJT
.model NPN NPN (Is=1e-14 Bf=100)
// Analysis
.op
.end
