spice
* SPICE Netlist for the given schematic
VCC 2 0 DC 2.5V
Vin 3 0 AC 1.0V
RB 2 4 1k
RC 2 5 1k
CB 3 4 10u
Q1 5 4 0 NPN
.model NPN NPN (IS=1e-14 BF=100 VAF=100)
* Connectors
? Missing component
* End of Netlist
