* Netlist for the provided schematic
M1 2 5 3 3 NMOS
V1 5 0 DC 0.5
V2 3 0 DC 0.5
? Missing component
* NMOS model (example parameters, adjust if needed)
.model NMOS NMOS (Level=1 VTO=0.7 KP=120u)
.end
