* Netlist for the given schematic
M1 drain gate source NMOS
? Missing component
RD drain VDD 1k
* Connecting nodes
* Assuming nodes based on schematic:
* gate is connected to node where RD and VDD meet.
* VDD is the positive terminal of voltage source.
* Source is connected to ground (0).
.END
