spice
* SPICE Netlist for the given schematic
V1 2 4 DC 1V
V2 2 3 DC 0.4V
? Missing component
* NMOS transistor M1 (Drain, Gate, Source)
M1 2 2 4 4 NMOS_MODEL
* Model parameters for NMOS
.model NMOS_MODEL NMOS (LEVEL=1)
.end
