plaintext
* SPICE Netlist for the given schematic
* Voltage Sources
? Missing component
Vin 1 0 DC <VIN_VALUE>
* Resistors
R1 3 0 <R1_VALUE>
R2 2 2 <R2_VALUE>
* NMOS, assuming technology parameters are defined elsewhere
M1 2 1 3 3 NMOS
M2 2 2 4 4 NMOS
.END
