spice
*MOSFET Differential Pair Netlist
*PMOS Transistor
M2 2 5 4 4 PMOS L=1u W=1u
*NMOS Transistor
M1 2 5 3 3 NMOS L=1u W=1u
*Voltage Source
VDD 4 0 DC 5V
*Input Voltage
? Missing component
*.model parameters (example values)
.model PMOS PMOS (LEVEL=1 KP=30u VTO=-0.7)
.model NMOS NMOS (LEVEL=1 KP=50u VTO=1)
*Simulation Commands
*.op
*.end
