spice
* SPICE Netlist
* Voltage source
VDD 4 0 DC 1.8
* Voltage source Vx
? Missing component
* Current source
IX 4 2 DC 0
* NMOS Transistors
M1_1 4 3 3 3 NMOS L=0.18u W=5u
M1_2 2 3 3 3 NMOS L=0.18u W=5u
* Model definition for NMOS
.model NMOS NMOS (LEVEL=1)
.end
