* Define PMOS M2
M2 2 1 5 5 PMOS
* Define NMOS M1
M1 2 3 4 4 NMOS
* Voltage source
VDD 5 0 DC VDD
* Input
? Missing component
* .model statements
.model NMOS NMOS
.model PMOS PMOS
