spice
* Netlist for given circuit
* Current Source
IIN 4 5 DC <current_value> * specify current value
* Transistors
Q1 7 3 8 NPN
Q2 7 4 8 NPN
Q3 2 1 8 NPN
Q4 4 2 8 NPN
* Voltage Source
? Missing component
VCC 5 8 DC <vcc_value> * specify VCC voltage value
* Analysis and other commands can be added here
.end
