spice
* SPICE Netlist for the given circuit
* Voltage source at the input
Vin 2 3 DC 0
* Resistor connected to input
RS 2 3 1k
* NMOS Transistor
M1 4 2 2 2 NMOS
* Resistor connected to drain of M1
RD 1 4 10k
* Output voltage node
Vout 4 0
* Voltage source for biasing
? Missing component
* Voltage at VDD
VDD 1 0 DC 5V
.model NMOS NMOS
