* NMOS Amplifier Circuit
? Missing component
R1 2 3 500
R2 3 1 <Value_Unknown>
RS 4 1 100
M1 2 4 1 1 NMOS
* Assume NMOS model is defined elsewhere
* End of netlist
