spice
* SPICE Netlist
? Missing component
VB 3 0 DC
IX 2 0 DC
* Transistors
M1 5 3 4 4 NMOS
M2 5 1 6 6 PMOS
* Node Mapping
* 1 - PMOS Gate
* 2 - IX and VX
* 3 - NMOS Gate and VB
* 4 - NMOS Source (GND)
* 5 - NMOS and PMOS Drain
* 6 - PMOS Source (VDD)
.END
