* SPICE netlist
V1 3 0 DC Vin0
? Missing component
R1 2 1 Rout
* PMOS (M1): Drain-Gate-Source
M1 1 3 2 2 PMOS_MODEL
* NMOS (M2): Drain-Gate-Source
M2 2 4 0 0 NMOS_MODEL
.END
