spice
* NMOS Transistor
M1 Vout Vin Vb Vb NMOS
* Resistor
RD VDD Vout 1k
* Voltage Source
VDD VDD 0 DC 1.8V
* Input Voltage
? Missing component
* Define NMOS Model (Example, may need modification as per specific process)
.model NMOS NMOS(Level=1 VTO=0.7 KP=200u)
.end
