plaintext
* SPICE netlist for the given circuit
? Missing component
Vin 2 0 DC
R1 5 2 1k
RD 5 1 1k
R2 2 2 1k
C1 2 2 1uF
C1 3 0 1uF
M1 1 2 3 3 PMOS L=1u W=1u
I1 3 0 DC 10uA
.END
