* NMOS Transistor
M1 2 4 2 2 NMOS
* Resistor
RD 2 3 1k
* Capacitor
C1 4 2 10p
* Voltage Source
Vin 4 0 DC 0
* Current Source
I1 2 0 DC 1mA
* Voltage Supply
? Missing component
.model NMOS NMOS LEVEL=1
.end
