* Node Assignments
* 1 - Ground
* 2 - Intersection of R4, M1 gate, and R3
* 3 - Vout, intersection of RD, R2, and M1 drain
* 4 - M1 source and R1
* VDD - Power supply
* Components
M1 3 2 4 4 NMOS
R1 4 1  R1_value
R2 3 2  R2_value
R3 3 VDD R3_value
R4 2 Vin R4_value
RD VDD 3 RD_value
C1 Vin 1 C1_value
CB 4 1 CB_value
* Voltage Source
? Missing component
V_in Vin 1 AC Vin_value
* Models
.model NMOS NMOS
