spice
* SPICE Netlist
* Voltage source
? Missing component
* Input voltage source
VIN Vin 0 DC 0
* NMOS Transistor
M1 VDD Vin 1 1 NMOS
* Current Source
I1 1 0 DC 1
* Capacitor
C1 1 2 1uF
* Load Resistor
RL 2 0 50
* Model definition
.model NMOS NMOS
* Simulation commands
.tran 1n 100n
.end
