* NMOS Transistor: M1
M1 out Vin 2 2 NMOS
* NMOS Transistor: M2
M2 2 Vb 0 0 NMOS
* Resistor: RS
RS out 2 RS_VALUE
* Voltage Source: VDD
VDD VDD 0 DC VDD_VALUE
* Voltage Source: Vin
Vin Vin 0 DC VIN_VALUE
* Voltage Source: Vb
? Missing component
* Output
Vout out 0
.end
