* MOSFET Inverter Circuit
M1 2 Vin 3 3 PMOS
M2 2 2 4 4 NMOS
* Voltage sources
? Missing component
Vin Vin 0 DC Vin_value
* Grounds
VSS 4 0 DC 0
.model PMOS PMOS (kp=XX Vto=XX)
.model NMOS NMOS (kp=XX Vto=XX)
* End of netlist
