* SPICE Netlist
* NMOS transistor M1
* Drain: Node 3, Gate: Vin, Source: GND
M1 3 Vin 0 NMOS
* PMOS transistor M2
* Drain: VDD, Gate: Vb, Source: Node 3
M2 VDD Vb 3 PMOS
* Voltage source VDD
? Missing component
* Define model parameters for NMOS and PMOS
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
* End of netlist
