spice
* NMOS model
.model NMOS NMOS
* Components
M1 Vout Vin 3 3 NMOS
M2 Vout Vb 2 2 NMOS
R1 Vout VDD 1k
I1 2 0 DC 1mA
* Voltage sources
Vin Vin 0 DC 0V
VDD VDD 0 DC 0V
? Missing component
.end
