* Voltage sources
V1 1 3 DC
? Missing component
* Resistors
R1 1 3 1000
R2 3 X 1000
RF X 2 1000
* Operational Amplifier
XU1 3 3 2 OPAMP
* .OP is used to indicate operational point analysis
.OP
