* NMOS Transistor
M1 3 4 2 2 NMOS_MODEL
* Voltage Source
? Missing component
* Current Source
I1 2 0 DC I_VALUE
* Model definitions
.model NMOS_MODEL NMOS(level=1)
