* Voltage sources
? Missing component
V2 5 0 DC Vin2
* Resistor
Rin 3 4 Rin
* Voltage-controlled voltage source
E1 2 0 3 5 A0
* Connections:
* 3 is the positive terminal of Vin1
* 5 is the positive terminal of Vin2
* 2 is Vout
* 4 connects Rin to the voltage-controlled source
.end
