* SPICE netlist for the given schematic
* Voltage source
Vin 5 0 DC <Vin_value>
* Resistor
R1 2 0 <R1_value>
* PMOS Transistor
Q1 3 2 4 4 PMOS_Model
* Model definitions
.model PMOS_Model PMOS(Level=1)
* Output node
? Missing component
.end
