spice
* SPICE Netlist for the given schematic
* Voltage source
? Missing component
* Resistor
R1 2 0 1k
* Diode
D1 3 2 Dmodel
* Operational Amplifier
X1 2 2 3 OpampModel
* Diode model (replace with an actual model or library reference if needed)
.model Dmodel D
* Op-amp model (this is an abstraction; real implementations use specific models)
.model OpampModel opamp
.end
