spice
* NMOS: drain gate source body
M1 2 5 3 3 NMOS L=1u W=2u
* Current Source
I1 4 44 DC 1A
* Voltage Source
? Missing component
* Additional connectivity
VDD 2 0 DC 5V
* .END (defines the end of the SPICE deck)
.END
