plaintext
* NMOS Transistor (Drain, Gate, Source)
M1 2 3 2 NMOS
* Resistor (Node 1, Node 2, Resistance)
RD 4 2 1k
* Voltage Source VDD (Positive, Negative, DC Value)
VDD 4 2 DC 5V
* Voltage Source Vin (Positive, Negative, DC Value)
? Missing component
* Assume NMOS model provided elsewhere
.model NMOS NMOS
