spice
* SPICE Netlist
? Missing component
IREF 5 6 DC 10uA
* NMOS Transistors
MREF 5 5 2 2 NMOS
M1 1 4 2 2 NMOS
M2 2 3 2 2 NMOS
M3 3 2 2 2 NMOS
* Connections
* Drain Gate Source (Body connected to Source for NMOS)
.end
