* BJT Differential Pair with Resistor
Q1 2 1 3 NPN
Q2 2 3 0 NPN
RP 2 4 1k
? Missing component
Vb2 2 0 DC 1V
Vout 4 0 DC 5V
.model NPN NPN(IS=1E-14 BF=100)
.end
