plaintext
* Netlist for the given schematic
Q1 2 Vb2 0 NPN
Q2 3 Vb2 5 NPN
I1 3 4 DC 1
Rout 5 4 1k
* Voltage and Ground Definitions
Vb2 Vb2 0 DC 1
? Missing component
.END
