* PMOS Transistor
M1 Vb3 2 3 3 PMOS
* NMOS Transistors
M2 2 Vb2 0 0 NMOS
M3 3 Vb1 2 2 NMOS
* Resistor
Rout 3 Vb3 Rout_value
* Voltage Sources for Body Terminals
? Missing component
Vb2 Vb2 0 DC_value2
Vb3 Vb3 0 DC_value3
* Simulation Commands
*.options
*.control
*.end
