spice
*MOSFET Inverter
M1 2 Vin 0 0 NMOS
M2 VDD Vb 2 2 PMOS
*Voltage Sources
VDD VDD 0 DC VDD_value
Vin Vin 0 DC Vin_value
? Missing component
*Model Definitions
.model NMOS NMOS
.model PMOS PMOS
