spice
* SPICE Netlist for the given schematic
? Missing component
Vin Vin 0 DC 1V
Vb1 Vb1 0 DC 1V
M1 2 Vb1 3 3 NMOS_Model
M2 Vout Vin 2 2 NMOS_Model
RE Vdd 2 10k
RS 3 0 1k
.ends
