* NMOS Transistors
M1 2 0 0 0 NMOS
M2 4 2 2 2 NMOS
* Current Source
I1 3 4 DC 0.1A
* Voltage Sources
Vin 0 1 DC 0V
Vb1 0 2 DC 0V
? Missing component
* Output
Vout 4
* Models
.model NMOS NMOS(Level=1)
.end
