spice
* PMOS Transistors
M1 7 6 7 7 PMOS L=Wp W=Lp
M2 7 22 23 7 PMOS L=Wp W=Lp
* NMOS Transistors
M3 23 3 3 3 NMOS L=Wn W=Ln
M4 4 3 3 3 NMOS L=Wn W=Ln
M5 6 3 3 3 NMOS L=Wn W=Ln
* Current Source
IREF 4 3 DC <value_of_IREF>
* Voltage Source
? Missing component
* End of Netlist
