spice
* SPICE Netlist
M1 N_3 Vin 0 0 NMOS
M2 N_2 Vb1 N_3 0 NMOS
M3 Vout Vb2 N_2 0 NMOS
M4 VDD Vb3 Vout Vout PMOS
VDD VDD 0 DC <supply_voltage>
? Missing component
* Model definitions
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
.end
