* Components
Q1 X 0 5 QNPN
Q2 Y 0 5 QNPN
RC1 X 5 10k
RC2 Y 4 10k
? Missing component
* Op-amp Configuration
* Assuming ideal op-amp with inputs connected
A1 2 3 0
* Net Definitions
* X: Node 3
* Y: Node 2
* 0: Ground
