plaintext
* Differential Amplifier Circuit
VCC 3 0 DC 2.5V
VIN1 2 0 DC 2V
? Missing component
I1 P 0 DC IEE
RC1 5 3 RC
RC2 3 3 RC
Q1 5 2 P Q1_MODEL
Q2 3 4 P Q2_MODEL
.model Q1_MODEL NPN
.model Q2_MODEL NPN
.END
