plaintext
* Differential Amplifier Circuit
VCC 1 0 DC 2.5
VIN1 X 0 DC 1
? Missing component
RC1 1 2 1k ; Replace 1k with actual resistance
RC2 1 4 1k ; Replace 1k with actual resistance
Q1 2 X P NPN
Q2 4 Y P NPN
IEE P 3 DC 0.001 ; Replace 0.001 with actual current
*Specify the model for NPN transistors
.model NPN NPN (...)
.END
