plaintext
* Differential Amplifier Circuit
VCC 3 0 DC <VCC_value>
Vin1 Vin1 0 DC <Vin1_value>
? Missing component
RC1 3 Q1_col <RC_value>
RC2 3 Q2_col <RC_value>
Q1 Q1_col Vin1 P NPN_model
Q2 Q2_col Vin2 P NPN_model
IEE P 0 DC <IEE_value>
.model NPN_model NPN (elements if needed)
.end
