* NMOS Transistor Q1: Drain -2, Gate - Vin1, Source - 0
M1 2 Vin1 0 0 NMOS
* NMOS Transistor Q3: Drain - Vout, Gate - 2, Source - 0
M2 Vout 2 0 0 NMOS
* Resistor R1: Connected between node 2 and ground
R1 2 0 1k
* Voltage Source for Vin1
? Missing component
* Voltage Source for Vout
Vout Vout 0 DC 3.3V
* Model Definitions
.model NMOS NMOS Level=1
