spice
* Components
M1 4 4 2 2 NMOS
M2 5 5 2 2 NMOS
R1 4 4 VDD
R2 5 5 VDD
I1 2 0 DC <Iss_value>
* Voltage at VDD
VDD VDD 0 DC <VDD_value>
* Inputs
? Missing component
Vin2 5 0 DC <Vin2_value>
* End
.end
