* NMOS: M1
M1 2 2 0 0 NMOS
* PMOS: M3
M3 2 4 2 2 PMOS
* Voltage source Vin1
? Missing component
* Voltage source Vout1
Vout1 2 0 DC 0
* Connections
* Node 2 is the common node
.end
