* Transistor Q1 is a BJT with collector, base, and emitter.
* The resistor R_C is connected to V_CC.
* Current source I_EE is connected from ground to the emitter of Q1.
Q1 Vout Vb Vin BJT_NPN
RC Vout VCC 100
IEE Vin 0 DC 1mA
? Missing component
VIN Vin 0 DC 0V
.model BJT_NPN NPN (Is=1e-14 Bf=100)
