spice
* Differential Amplifier Circuit
* Voltage Sources
VDD 6 0 DC VDD
* Resistors
RS1 5 6 RS
RS2 4 6 RS
RSS 3 0 RSS
* Transistors
* NMOS - M1 and M2
M1 3 2 3 3 NMOS
M2 3 4 3 3 NMOS
* PMOS - M3 and M4
M3 5 2 5 5 PMOS
M4 4 2 6 6 PMOS
* Current Sources
I1 3 0 DC ISET1
I2 3 0 DC ISET2
* Inputs
? Missing component
Vin2 4 0 DC Vin2
* Model Definition
.model NMOS NMOS
.model PMOS PMOS
.end
