* Transistors
M1 5 2 4 4 NMOS
M2 2 2 4 4 NMOS
M3 4 4 3 3 PMOS
M4 4 4 3 3 PMOS
* Resistors
RD 3 5 RD_value
RD_PLUS_DELTA 3 2 RD_DELTA_value
* Voltage Source
VDD 3 0 DC VDD_value
* Input Voltages
Vin1 2 0 DC Vin1_value
Vin2 2 0 DC Vin2_value
* Bias Voltages
? Missing component
Vb3 4 0 DC Vb3_value
.end
