spice
* Netlist description for the circuit
? Missing component
* Voltage Source
VCM 7 6 DC 1.65
* Current Source
ISS 4 6 DC 0.1m
* NMOS Transistors
M1 5 6 4 4 NMOS
M2 3 3 4 4 NMOS
* PMOS Transistors
M3 2 2 5 2 PMOS
M4 2 3 2 2 PMOS
.model NMOS NMOS level=1
.model PMOS PMOS level=1
.end
