* NMOS transistors
M1 5 2 7 7 NMOS
M2 5 2 7 7 NMOS
M5 6 0 7 7 NMOS
M6 7 0 0 0 NMOS
* PMOS transistors
M3 6 2 3 3 PMOS
M4 2 2 3 3 PMOS
M7 3 2 3 3 PMOS
* Resistor
R1 2 5 1k
* Voltage sources
? Missing component
* Inputs
Vin1 7 0 DC
Vin2 2 0 DC
* Output
Vout 5 0
.model NMOS NMOS
.model PMOS PMOS
.end
