spice
* SPICE Netlist for BJT Circuit
* Transistor
Q1 4 5 E QMOD
* Capacitors
C1 2 4 Cmu
C2 2 5 Cpi
C3 4 2 Ccs
.model QMOD NPN(IS=1E-14 BF=100)
* Node voltage definitions
? Missing component
