spice
* SPICE Netlist for the given schematic
? Missing component
VGS 5 5 DC VGS
I_D1 2 5 DC ID1
I_D2 3 4 DC ID2
M1 8 5 5 5 NMOS_MODEL
M2 3 2 4 4 PMOS_MODEL
* Models (provide appropriate model parameters)
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS
.end
