spice
* BJT Amplifier Circuit
VCC VCC 0 DC 15V
? Missing component
Q1 3 X 2 QMOD
RC VCC 3 1k
RO 3 2 500
RB Vin X 10k
.model QMOD NPN (IS=1E-14 BF=100)
.end
