plaintext
* SPICE Netlist for given Circuit
VCC VCC 0 DC [Value_of_VCC]
? Missing component
* Resistor
Rs 1 2 [Value_of_Rs]
* Transistors
Q1 4 2 0 NPN
Q2 VCC 3 4 NPN
* Nodes annotation
* Node 1: Vin
* Node 2: Base of Q1
* Node 3: Base of Q2
* Node 4: Common collector of Q1 and emitter of Q2
.END
