* Transistors
M1 2 7 8 8 NMOS
M2 5 7 8 8 NMOS
M3 9 2 10 10 PMOS
M4 5 6 10 10 PMOS
* Current Source
I1 8 3 DC 100uA
* Voltage Sources
V_SUP 10 0 DC V_SUP
? Missing component
* Output
V_OUT 5 4 DC 0
