spice
* SPICE Netlist
* NMOS Transistors
M1 2 4 2 2 NMOS
M2 2 6 2 2 NMOS
* PMOS Transistors
M3 7 4 7 7 PMOS
M4 0 6 7 7 PMOS
* Current Source
I1 2 3 DC Iss
* Resistors
R1 0 2 R1
R2 2 3 R2
* Voltage Source
VDD 7 0 DC VDD
* Inputs
Vin 4 0 DC Vin
* Outputs
? Missing component
.END
