plaintext
* SPICE Netlist
* Voltage Sources
VDD 2 0 DC 5V
? Missing component
* Current Source
ISS 2 4 DC 1mA
* Resistors
R1 6 3 10k
R2 3 0 20k
* NMOS Transistors (Drain Gate Source)
M1 5 6 4 NMOS
M2 3 0 0 NMOS
* PMOS Transistors (Drain Gate Source)
M3 2 8 5 PMOS
M4 8 6 0 PMOS
* Simulation Commands
.end
