plaintext
* SPICE Netlist for the given schematic
? Missing component
R1 10 9 13.7k
R2 3 2 700
Q1 6 8 4 QNPN
Q2 9 6 4 QNPN
Q3 2 7 3 QNPN
.model QNPN NPN
.end
