* SPICE Netlist for the given circuit
R1 6 8 1k    * Resistor R1 between nodes 6 and 8
R2 6 2 1k    * Resistor R2 between nodes 6 and 2
V1 8 5 DC 10 * Voltage Source V1: + at node 8, - at node 5
? Missing component
*.end        * End of netlist
