* Example Circuit
VDD 6 0 DC 5
? Missing component
RD 6 3 1k
RL 7 0 1k
RM 3 4 1k
M1 3 1 4 4 NMOS
M2 7 3 6 6 PMOS
* NMOS and PMOS model definitions
.model NMOS NMOS
.model PMOS PMOS
.end
