plaintext
* SPICE Netlist
* Components
M1 24 2 2 2 NMOS
? Missing component
VDD 4 0 DC 0
* Resistors
R1 3 2 1k
R2 2 2 1k
RD 24 4 1k
* Capacitor
C1 2 2 1uF
* Simulation Commands
.op
.end
