* SPICE Netlist for the given schematic
VDD 5 0 DC VDD
* Current Source
ISS 3 7 DC ISS
* Transistors
M1 3 Vin 7 7 NMOS
M2 2 3 5 5 NMOS
* Resistors
R1 2 4 R1_value
R2 4 0 R2_value
* Voltage Source
? Missing component
* Control and simulation
.tran 1n 10n
.end
