* SPICE Netlist
? Missing component
I1 3 2 DC 1mA  * Current source with 1mA
*MOSFETs
M1 2 4 0 0 NMOS * NMOS: Drain=2, Gate=Vin (4), Source=0 (Ground), Body=0
M2 2 4 3 3 PMOS * PMOS: Drain=2, Gate=4, Source=3 (VDD), Body=3
*Resistor
R1 2 0 1kΩ    * Resistor: From Node 2 to Ground, 1kOhm
* Simulation commands
.end
